US07696243B2
Intermediate 1.1: 4-Carboxyphenethyl(triphenyl)phosphonium bromide
p-Bromoethylbenzoic acid (15 mmol, 3.45 g) and triphenylphosphine (16.5 mmol, 4.32 g) were refluxed in 100 ml m-xylene for 9 h (oil bath temperature 150° C.). The mixture was then cooled down, the solid formed was filtered, washed with m-xylene (2×20 ml), hexanes (2×20 ml), and air-dried to give 6.05 g (82%) of beige crystals. Recrystallization from MeOH—CHCl3-hexanes (˜1:3:5) afforded 2.8 g (38%) of pure off-white crystals of 4-carboxyphenethyl(triphenyl)phosphonium bromide. 1H NMR (400 MHz, CDCl3) δ 7.74 (d, 2H, 8.4 Hz, H2, H6 Ar), 7.68 (m, 3H, Ph3P), 7.55 (m, 12H, Ph3P), 7.09 (d, 2H, 8.4 Hz, H3, H5 Ar), 3.48 (m, 2H, CH2—P), 2.86 (m, 2H, CH2—Ar)

reactant | p-Bromoethylbenzoic acid | 15 mmol, 3.45 g | BrCCC1=CC=C(C(=O)O)C=C1 | C9H9BrO2
reactant | triphenylphosphine | 16.5 mmol, 4.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | m-xylene | 100 ml | C1(=CC(=CC=C1)C)C | C8H10
product | 4-Carboxyphenethyl(triphenyl)phosphonium bromide | 6.05 g, 82% | [Br-].C(=O)(O)C1=CC=C(CC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C27H23O2P.BrH/c28-27(29)23-18-16-22(17-19-23)20-21-30(24-10-4-1-5-11-24,25-12-6-2-7-13-25)26-14-8-3-9-15-26;/h1-19H,20-21H2;1H
